US05434181
A mixture comprising 3.00 g of (tetrahydro-3-furanyl)methyl tosylate, 0.20 g of sodium iodide, 3.50 g of potassium carbonate, 4.00 g of propylamine and 30 ml of ethanol was refluxed for 8 hours. After separation of insoluble matters by filtration, the reaction fluid was concentrated under a reduced pressure to obtain crude N-{(tetrahydro-3-furanyl)methyl}propylamine. To this were added 1.90 g of 1,1-bis(methylthio)-2-nitroethylene and 16 ml of acetonitrile. The resulting mixture was refluxed for 4 hours. The reaction fluid was concentrated under a reduced pressure, and purified by silica gel column chromatograpy (eluent: ethyl acetate/hexane=1/2) to obtain 1.00 g of 1-[N-{(tetrahydro-3-furanyl)methyl}-N-propylamino]-1-methylthio-2-nitroethylene. A mixture comprising 0.25 g of the 1-[N-{(tetrahydro-3-furanyl)methyl}-N-propylamino]-1-methylthio-2-nitroethylene obtained above and 3 ml of 40% methylamine in methanol solution was stirred for 40 minutes at room temperature. The reaction fluid was concentrated under a reduced pressure, and purified by silica gel column chromatography (eluent: ethyl acetate/methanol=7/1) to obtain 0.22 g of 1-[N-{(tetrahydro-3-furanyl)methyl}propylamino]-1-methylamino-2-nitroethylene.

reactant | (tetrahydro-3-furanyl)methyl tosylate | 3.00 g | S(=O)(=O)(OCC1COCC1)C1=CC=C(C)C=C1 | C12H16O4S
reactant | sodium iodide | 0.20 g | [I-].[Na+]
reactant | potassium carbonate | 3.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | propylamine | 4.00 g | C(CC)N | C3H9N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-{(tetrahydro-3-furanyl)methyl}propylamine | O1CC(CC1)CNCCC | C8H17NO
